US07285563B2
3-tert-Butylphenyl trifluoromethane sulfonate
To an ice-cooled solution of 3-tert-butylphenol (10 g, 66.6 mmol) and triethylamine (13.92 ml, 99.9 mmol) in anhydrous dichloromethane (100 ml) under an atmosphere of nitrogen was added slowly trifluoromethanesulfonic anhydride (12.30 ml, 73.26 mmol), and the resulting mixture stirred at room temperature for 2 hours. The mixture was then washed with 1N HCl (100 ml), brine (100 ml), dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica eluting with iso-hexanes to give the title compound (16.38 g, 87%) as a clear oil.

reactant | 3-tert-butylphenol | 66.6 mmol, 10 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | triethylamine | 99.9 mmol, 13.92 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 73.26 mmol, 12.30 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-tert-Butylphenyl trifluoromethane sulfonate | 16.38 g, 87% | FC(S(=O)(=O)OC1=CC(=CC=C1)C(C)(C)C)(F)F | C11H13F3O3S
